US06828460B2
(±)-2,4-Bis(methoxymethoxy)-1-(3-methylenecyclohexyl)benzene
Potassium tert-butoxide (50 mg) was added to a suspension of methyltriphenylphosphonium bromide in tetrahydrofuran (4 ml) at 0° C. After 0.5 hr, a solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone (100 mg) in tetrahydrofuran (1 ml) was added, and the mixture was allowed to warm to ambient temperature. After 16 hr, the reaction mixture was partitioned between ammonium chloride (30 ml of a saturated aqueous solution) and ethyl acetate. The aqueous layer was extracted with further ethyl acetate (2×30 ml), and the combined organic extracts were washed with brine (30 ml), dried over magnesium sulfate, and evaporated in vacuo. The crude residue was purified by flash column chromatography (SiO2, ethyl acetate/petrol, 4:1 v/v) to furnish the title compound as pale yellow oil (80 mg, 81%). δH(CDCl3) 1.50 (2H, m), 1.90 (2H, m), 2.05 (1H, m), 2.16 (1H, m), 2.35 (1H, m), 2.44 (1H, m), 2.97 (1H, m), 3.44 (3H, s), 3.48 (3H, s), 4.64 (1H, s), 4.69 (1H, s), 5.13 (2H, s), 5.17 (2H, s), 6.68 (1H, m), 6.77 (1H, m), 7.12 (1H, d).

reactant | Potassium tert-butoxide | 50 mg | CC(C)([O-])C.[K+]
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexanone | 100 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=O | C16H22O5
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (±)-2,4-Bis(methoxymethoxy)-1-(3-methylenecyclohexyl)benzene | 80 mg, 81% | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=C | C17H24O4
